US07750154B2
N-cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide
To a stirred slurry of 4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid (0.2 g) and DMF (0.05 ml) in methylene chloride (4 ml) at 35° C. was added thionyl chloride (0.019 ml). The resultant yellow solution was stirred at 35° C. for 2.5 hours. The reaction mixture was concentrated to give a yellow/orange solid. The solid was stirred in methylene chloride (4 ml) at room temperature and cyclopropylamine (0.37 ml) was added, stirred for 10 minutes and concentrated. The resultant solid was partitioned between ethyl acetate (5 ml) and a saturated NaHCO3 solution (2.5 ml). The aqueous layer was separated and the organic layer washed with brine (5 ml). The organic phase concentrated to give a yellow foam and white solid. The mixture was triturated with toluene (5 mL) and filtered to remove the inorganic residues. The toluene solution was concentrated to give a yellow gum which was dissolved in methylene chloride and concentrated (3 times) to give the title compound as a yellow foam (171 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 2.13 (s, 3H), 2.24 (s, 3H), 2.48 (m, 4H), 2.86 (m, 1H), 3.29 (m, 4H), 7.48 (d, 1H), 7.53 (d, 1H), 7.64 (m, 2H), 7.82 (d, 1H), 7.90 (m, 1H), 8.09 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 418.

reactant | 4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | 0.2 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C | C21H22N4O3
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.019 ml | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropylamine | 0.37 ml | C1(CC1)N | C3H7N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | 171 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C)=O | C24H27N5O2
